US06569993B1
To a solution of Fmoc-Glu(tBu) (6.73 g, 15.8 mmol) and benzotriazolyloxy-tris[pyrrolidino]-phosphonium hexafluoroacetate (PyBOP, 8.18 g, 15.8 mmol) in 105 mL acetonitrile at 2° C. is added N-methylmorpholine (1.58 g, 15.8 mmol) and the reaction mixture is stirred at 2-4° C. for 30 minutes. A solution of L)Arg(Pmc)-Val-Asp(OAllyl)-OBzl (12.4 g, 15.8 mmole) in 70 mL acetonitrile is added at 2° .C over 20 minutes. N-methylmorpholine is then added to achieve pH 7. Cooling is ceased, and the mixture is allowed to warm to ambient temperature, then stirred is continued for a total of 3 hours. The milky reaction mixture is filtered (slow) and the white residue is dried in the filter overnight to afford 10.8 g of Fmoc-Glu(OBut)-Arg(Pmc)-Val-Asp(Allyl)-OBzl. The filtrate is concentrated to give a gum, which is taken up in 30 mL acetonitrile and allowed to stand for 48 hours, producing an additional 3.45 g of product. The total yield of Fmoc-Glu(OtBu)-Arg(Pmc)-Val-Asp(OAllyl)-OBzl is 14.3 g. (Mcalc 1192; M+1obsvd 1192.4)

reactant | Fmoc-Glu(tBu) | 15.8 mmol, 6.73 g | N([C@@H](CCC(OC(C)(C)C)=O)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C24H27NO6
reactant | PyBOP | 15.8 mmol, 8.18 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholine | 15.8 mmol, 1.58 g | CN1CCOCC1 | C5H11NO
reactant | Arg(Pmc)-Val-Asp(OAllyl)-OBzl | 15.8 mmole, 12.4 g | N[C@@H](CCCNC(NS(=O)(=O)C1=C(C)C=2CCC(C)(C)OC2C(C)=C1C)=N)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC(OCC=C)=O)C(=O)OCC1=CC=CC=C1 | C39H56N6O9S
solvent | acetonitrile | 105 mL | C(C)#N | C2H3N
solvent | acetonitrile | 70 mL | C(C)#N | C2H3N
product | Fmoc-Glu(OBut)-Arg(Pmc)-Val-Asp(Allyl)-OBzl | 10.8 g | N([C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=C(C)C=2CCC(C)(C)OC2C(C)=C1C)=N)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC(OCC=C)=O)C(=O)OCC1=CC=CC=C1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C63H81N7O14S
